Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Lipitor / Naprosyn / Plaquenil
 
Attending: ___.
 
Chief Complaint:
Tremor 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old woman with PMHx notable for OA, DM2 on oral agents, 
HLD, depression, GERD who presents with intermittent 
tremulousness on the day of admission that occurred following 
taking 20mg (2x her dose) of cyclobenzaprine. She reports that 
she has a long history with difficulty sleeping. She reports 
that her PCP started cyclobenzaprine 10mg PO QHS and then the 
patient took 20mg as she couldn't sleep;. She reports a couple 
of hours following taking the high dose she felt that her left 
leg was twitching and then through her whole body. She reports 
that she did not lose consciousness and had control of her 
limbs. She reports that she felt very restless and was agitated 
per her husband. She reports that she had no numbness, weakness, 
or speech changes. She reports that she had been having R sided 
muscle aches and spasms after a fall about 3 months ago. She 
reports that otherwise she was in her usual state of health. 

In the ED the patient triggered for possible stroke. Her neuro 
exam was non-focal but she was found to have a sodium of 124 
with a normal glucose. She was admitted to the medical service 
for further evaluation and management. 

ROS: A ten point ROS was conducted and was negative except as 
above in the HPI.
 
Past Medical History:
1.  Diffuse OA
2.  Diabetes mellitus ___ years.  
3.  Dyslipidemia, previously on pravastatin.
4.  Depression.
5.  GERD.
6.  Idiopathic angioedema.
7.  Chronic anemia.
9.  S/p total hysterectomy in the ___.
 
Social History:
___
Family History:
Her mother had CVA and diabetes.  
Her father died of coronary artery disease.  
She has 10 siblings, most of whom are healthy as far as she 
knows.
 
Physical Exam:
Admission Physical Exam:
Vitals: 97.9, 118/74, 90, 18, 100%RA
Gen: NAD, lying in bed
Eyes: EOMI, sclerae anicteric
ENT: MMM, OP clear
CV: RRR, no murmur
PULM: normal effort, no accessory muscle use, lungs CTA ___.
GI: soft, NT, ND, BS+
MSK: No significant kyphosis. No palpable synovitis.
Skin: No visible rash. No jaundice.
Neuro: AAOx3. Fluent speech, no facial droop.
Psych: Full range of affect

Discharge Physical Exam:
Vitals: 97.8, 123/63, 80, 18, 98%RA
Gen: NAD, lying in bed and walking around the room
Eyes: EOMI, sclerae anicteric
ENT: MMM, OP clear
CV: RRR, no murmur
PULM: normal effort, no accessory muscle use, lungs CTA ___.
GI: soft, NT, ND, BS+
MSK: No significant kyphosis. No palpable synovitis.
Skin: No visible rash. No jaundice.
Neuro: AAOx3. Fluent speech, no facial droop. ___ strength in 
the upper and lower extremities proximal and distal muscle 
groups in flexion and extension. 
Psych: Full range of affect
 
Pertinent Results:
Admission Labs:
___ 06:20AM BLOOD WBC-9.8 RBC-3.60* Hgb-10.5* Hct-31.4* 
MCV-87 MCH-29.2 MCHC-33.4 RDW-11.9 RDWSD-37.6 Plt ___
___ 06:20AM BLOOD Neuts-54.6 ___ Monos-9.3 Eos-1.6 
Baso-0.5 Im ___ AbsNeut-5.36 AbsLymp-3.25 AbsMono-0.92* 
AbsEos-0.16 AbsBaso-0.05
___ 06:20AM BLOOD Glucose-136* UreaN-11 Creat-0.6 Na-124* 
K-4.2 Cl-90* HCO3-21* AnGap-17
___ 06:20AM BLOOD Calcium-9.1 Phos-3.0 Mg-1.8
___ 06:20AM BLOOD Osmolal-257*
___ 07:53AM URINE Color-Straw Appear-Clear Sp ___
___ 07:53AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 07:53AM URINE Hours-RANDOM Creat-8 Na-39 K-16 Cl-37
___ 07:53AM URINE Osmolal-141

Imaging: 
EXAMINATION:  CHEST (PA AND LAT) 
  
INDICATION:  ___ year old woman with persistent cough  // ? 
infiltrate     
  
IMPRESSION:  
In comparison with study in ___, there is little 
change and no acute cardiopulmonary disease.  No pneumonia, 
vascular congestion, or pleural effusion. 

DISCHARGE LABS:

___ 12:50PM BLOOD Glucose-171* UreaN-10 Creat-0.6 Na-132* 
K-3.9 Cl-97 HCO3-23 AnGap-16
___ 06:20AM BLOOD WBC-7.9 RBC-3.61* Hgb-10.6* Hct-31.5* 
MCV-87 MCH-29.4 MCHC-33.7 RDW-11.8 RDWSD-38.1 Plt ___

 
Brief Hospital Course:
___ year old woman with PMHx notable for OA, DM2 on oral agents, 
HLD, depression, GERD who presents with intermittent 
tremulousness on the day of admission that occurred following 
taking 20mg (2x her dose) of cyclobenzaprine.

# Tremulousness/Anxiety: Likely related to additional dose 
cyclobenzaprine. Irritability (1% to 3%) and nervousness (1% to 
3%) are both side effects. Improved to baseline within 24 hours 
of holding cyclobenzaprine. She was instructed to not restart 
cyclobenzaprine on discharge.

# Hyponatremia: Presented with sodium of 124. Patient husband 
has been low over the last 2 months on the outpatient setting in 
the setting of hyperglycemia. Urine osoms and exam consistent 
with hypovolemia. Sodium improved to 132 (corrected to 134 based 
on sugar of 171) at time of discharge. She was instructed to 
drink at least 2L of fluid and continue to eat a diabetic diet. 
Her FSBS were in the 160s during her stay and responded to low 
dose insulin. 

# DM2: Worsening coverage with upcoming appointment on ___ 
with ___. Her home metformin was continued and she was 
covered with a low dose insulin sliding scale and her FSBS 
improved to the 160s. She will resume outpatient glipizide for 
coverage. She can likely uptitrate her home metformin from 500mg 
PO BID to ___ PO BID as well.  

# HLD: Has a history of HLD but is not on medication as has a 
history of myopathy with statin. 

# Cough: Reports chronic cough that is worse with laying down. 
Her CXR was unchanged from prior witout acute process. Could be 
due to GERD vs post nasal drip. She was given a prescription for 
a 2 week trial of high dose omeprazole (40mg PO BID x 14 days).
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 800 mg PO QHS 
2. MetFORMIN (Glucophage) 500 mg PO BID 
3. Multivitamins W/minerals 1 TAB PO DAILY 
4. Omeprazole 20 mg PO DAILY 
5. Aspirin 81 mg PO DAILY 
6. GlipiZIDE 1.25-2.5 mg PO DAILY:PRN High blood sugars 
7. Cyclobenzaprine 10 mg PO HS:PRN muscle spasm/insomnia 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Gabapentin 800 mg PO QHS 
3. MetFORMIN (Glucophage) 500 mg PO BID 
4. Multivitamins W/minerals 1 TAB PO DAILY 
5. Omeprazole 20 mg PO DAILY 
6. Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 17 gram/dose 17 gram by mouth Daily 
Refills:*0
7. Senna 8.6 mg PO BID 
RX *sennosides 8.6 mg 1 Tablet by mouth twice a day Disp #*30 
Tablet Refills:*0
8. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0
9. GlipiZIDE 1.25-2.5 mg PO DAILY:PRN High blood sugars 
RX *glipizide 5 mg 0.25-0.5 tablet(s) by mouth Daily Disp #*7 
Tablet Refills:*0
10. Omeprazole 40 mg PO BID Duration: 2 Weeks 
RX *omeprazole 40 mg 1 capsule(s) by mouth twice a day Disp #*28 
Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hyponatremia
Adverse reaction to cyclobenzaprine

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Ms ___,

It was a pleasure taking care of you in the hospital. You were 
admitted with shaking and found to have low sodium. The 
agitation and shaking was likely due to the cyclobenzaprine as 
it resolved with holding this medication. The low sodium appears 
to be from being dehydrated, likely from poor control of your 
blood sugar. You were rehydrated and your sodium improved. 

Please take your medications as directed and make sure to stay 
hydrated. 
 
Followup Instructions:
___